US04284632
1-Allyl-3-(β-dimethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one
In a manner analogous to that described in Example 1, 30.6 g. 1-allyl-3-hydroxy-4-phenyl-3-pyrrolin-2-one are reacted with 23.0 g. β-dimethylaminoethyl chloride. The base obtained is reacted with gaseous hydrogen chloride in ethyl acetate. There is obtained 15.0 g. (45.5% of theory) 1-allyl-3-(β-dimethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one hydrochloride: m.p. 115°-117° C., after recrystallization from methyl ethyl ketone.

reactant | 1-allyl-3-hydroxy-4-phenyl-3-pyrrolin-2-one | C(C=C)N1C(C(=C(C1)C1=CC=CC=C1)O)=O | C13H13NO2
reactant | β-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Allyl-3-(β-dimethylaminoethoxy)-4-phenyl-3-pyrrolin-2-one | C(C=C)N1C(C(=C(C1)C1=CC=CC=C1)OCCN(C)C)=O | C17H22N2O2
